US07816371B2
d. (R)-2-(5-(2-(3-Fluoro-4-(trifluoromethyl)phenyl)acetamido)-6-methyl-1-oxoisoquinolin-2(1H)-yl)propyl acetate
A round bottom flask was charged with (R)-2-(5-amino-6-methyl-1-oxoisoquinolin-2(1H)-yl)propyl acetate (175 mg, 0.000638 mol), 2-(3-fluoro-4-(trifluoromethyl)phenyl)acetic acid (210 mg, 0.00096 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (610 mg, 0.0016 mol), N,N-diisopropylethylamine (0.28 mL, 0.0016 mol) and N,N-dimethylformamide (8 mL, 0.1 mol) and the reaction stirred at 45° C. for 24 hours. The reaction did not go to completion. The reaction was then quenched with water and extracted with ethyl acetate, washed with NaHCO3, brine and dried. The solvent was removed under reduced pressure and the residue purified by flash chromatography to obtain the product as a light yellow oil. MS m/z=479.3 (M+H)

reactant | (R)-2-(5-amino-6-methyl-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 0.000638 mol, 175 mg | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)N)C)=O | C15H18N2O3
reactant | 2-(3-fluoro-4-(trifluoromethyl)phenyl)acetic acid | 0.00096 mol, 210 mg | FC=1C=C(C=CC1C(F)(F)F)CC(=O)O | C9H6F4O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.0016 mol, 610 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.0016 mol, 0.28 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 0.1 mol, 8 mL | CN(C=O)C | C3H7NO
product | (R)-2-(5-(2-(3-Fluoro-4-(trifluoromethyl)phenyl)acetamido)-6-methyl-1-oxoisoquinolin-2(1H)-yl)propyl acetate | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)NC(CC1=CC(=C(C=C1)C(F)(F)F)F)=O)C)=O | C24H22F4N2O4
